US07977340B2
A solution of 3-(3,5-Dinitro-4-thiocyanato-phenyl)-pyridine (0.66 g, 2.19 mmol) in glacial acetic acid (15 ml) was treated with iron powder (0.61 g, 11.0 mmol) and stirred at ambient temperature for 16 h. The resultant mixture was diluted with water (200 ml) and made alkaline by the addition of concentrated ammonia solution. The solid material was collected by filtration and washed with water followed by ethyl acetate. The filtered solid was then extracted with boiling ethanol (3×200 ml) which was removed in vacuo to give 7-Nitro-5-pyridin-3-yl-benzothiazol-2-ylamine as a pale yellow solid (0.57 g, 95%).

reactant | 3-(3,5-Dinitro-4-thiocyanato-phenyl)-pyridine | 2.19 mmol, 0.66 g | [N+](=O)([O-])C=1C=C(C=C(C1SC#N)[N+](=O)[O-])C=1C=NC=CC1 | C12H6N4O4S
reactant | ammonia | N | H3N
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
solvent | water | 200 ml | O | H2O
catalyst | iron | 11.0 mmol, 0.61 g | [Fe] | Fe
product | 7-Nitro-5-pyridin-3-yl-benzothiazol-2-ylamine | 0.57 g, 95% | [N+](=O)([O-])C1=CC(=CC=2N=C(SC21)N)C=2C=NC=CC2 | C12H8N4O2S
